US05576340
Methyl 3-[4-(2-oxopropoxy)phenyl]lactate
Following a procedure similar to that described in Preparation 3, but using 1.8 g of methyl 4-hydroxyphenyllactate, 1.63 g of bromoacetone, 1.65 g of potassium carbonate and 150 ml of dimethylformamide, the title compound was obtained having an Rf=0.32 (thin layer chromatography over silica gel, using a 1:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | methyl 4-hydroxyphenyllactate | 1.8 g | OC1=CC=C(C=C1)C(C(=O)OC)(O)C | C10H12O4
reactant | bromoacetone | 1.63 g | BrCC(C)=O | C3H5BrO
reactant | potassium carbonate | 1.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | Methyl 3-[4-(2-oxopropoxy)phenyl]lactate | O=C(COC1=CC=C(C=C1)CC(C(=O)OC)O)C | C13H16O5
